US09227978B2
Tert-Butyl 3-(4-(2-((4-Chloro-5-cyclobutyl-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate
A mixture of tert-butyl 3-(4-(2-((4-chloro-5-iodo-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate (673 mg, 1.162 mmol), cyclobutylzinc bromide (5.11 mL, 2.556 mmol, 0.5 M in THF), Pd(Oac)2 (52 mg, 0.23 mmol), S-Phos (95 mg, 0.23 mmol) in THF (10 mL) was stirred at 65° C. under argon for 16 h. The mixture was allowed to cool to RT, quenched with aqueous NH4Cl solution and then extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (ethyl acetate/petroleum ether=1:1) to afford the desired product (565 mg, 96% yield) as a light yellow solid. ESI-MS m/z: 507.6[M+H]+.

reactant | tert-butyl 3-(4-(2-((4-chloro-5-iodo-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate | 1.162 mmol, 673 mg | ClC1=CC(=C(C=C1I)NC(C(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)C)OC | C22H32ClIN4O4
reactant | cyclobutylzinc bromide | 2.556 mmol, 0.5 M, 5.11 mL | [Br-].C1(CCC1)[Zn+]
reactant | S-Phos | 0.23 mmol, 95 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(Oac)2 | 0.23 mmol, 52 mg | CC(=O)O.CC(=O)O.[Pd]
product | Tert-Butyl 3-(4-(2-((4-Chloro-5-cyclobutyl-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate | 565 mg, 96% yield | ClC1=CC(=C(C=C1C1CCC1)NC(C(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)C)OC | C26H39ClN4O4
